US04281121
5-ethylthio-1,3,4-thiadiazole-2-carboxylic acid ethylamide
54 g of an aqueous 50% ethylamine solution were added to 43.7 g of the compound obtained in Example 8(c), that is ethylthio-1,3,4-thiadiazole-2-carboxylic acid ethyester. This caused the temperature to rise to 46° C. The solution was subsequently heated to boiling point for another 15 minutes. It was then cooled to 4° C. and reacted with 50 ml icewater. The precipitated compound was removed by suction.

reactant | ethylamine | C(C)N | C2H7N
reactant | ethylthio-1,3,4-thiadiazole-2-carboxylic acid ethyester | C(C)OC(=O)C=1SC(=NN1)SCC | C7H10N2O2S2
product | 5-ethylthio-1,3,4-thiadiazole-2-carboxylic acid ethylamide | C(C)NC(=O)C=1SC(=NN1)SCC | C7H11N3OS2
